US04183940
15 g (0.04 mol) of 9,10-dichloro-9,10-dihydro-9,10-diphenyl-anthracene and 17.7 g (0.24 mol) of imidazole in 250 ml of absolute acetonitrile are heated under reflux for 6 hours. Thereafter, the solvent is distilled off in vacuo and the residue is taken up in 500 ml of methylene chloride. The methylene chloride solution is washed twice with 500 ml of water each time and the organic phase is separated off, dried over sodium sulphate and concentrated by distilling off the solvent in vacuo. The residue is heated in 300 ml of methanol and filtered. The filtrate is concentrated and the oil which remains is triturated with 50 ml of diisopropyl ether, whereupon it crystallises. 10 g (54% of theory) of 9,10-diimidazol-1-yl-9,10-dihydro-9,10-diphenyl-anthracene of melting point 258°-260° C. are obtained.

reactant | 9,10-dichloro-9,10-dihydro-9,10-diphenyl-anthracene | 0.04 mol, 15 g | ClC1(C2=CC=CC=C2C(C=2C=CC=CC12)(C1=CC=CC=C1)Cl)C1=CC=CC=C1 | C26H18Cl2
reactant | imidazole | 0.24 mol, 17.7 g | N1C=NC=C1 | C3H4N2
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | 9,10-diimidazol-1-yl-9,10-dihydro-9,10-diphenyl-anthracene | 10 g, 54% | N1(C=NC=C1)C1(C2=CC=CC=C2C(C=2C=CC=CC12)(C1=CC=CC=C1)N1C=NC=C1)C1=CC=CC=C1 | C32H24N4
